2111-02-19 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Received iv abx, otherwise did not receive ivfs.  BP
s remained stable
   from sbp
   89->102.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-19**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 35.4
C (95.7
   Tcurrent: 35.4
C (95.7
   HR: 92 (89 - 96) bpm
   BP: 90/52(60) {86/52(60) - 95/62(70)} mmHg
   RR: 15 (14 - 18) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                  360 mL
   PO:
                  360 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    360 mL
   Respiratory support
   SpO2: 94%
   ABG: ////
   Physical Examination
   GEN: Pleasant, comfortable appearing elderly woman in NAD
   CV: Irregularly irregular, JVD mildly elevated
   Pulm: bibasilar crackles, otherwise CTAB
   Abd: RUQ tenderness, no guarding or rebound tenderness, soft, BS
   present
   Ext: trace pitting edema up mid shin
   Labs / Radiology
   CT abdomen/pelvis
   cardiomegaly.
   no gallbladder seen --? prior cholecystectomy or collapsed.
   bilateral perinephric stranding and fluid - given ARF, [**Last Name (un) 5726**] for
   infection.
   diffuse body wall edema.
   212 K/uL
   10.9 g/dL
   33.0 %
   10.2 K/uL
        [image002.jpg]
   [1][image003.gif]   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [2][**2111-2-19**] 04:57AM
                                    10.2
                                    3.60*
                                    10.9*
                                    33.0*
                                     92
                                    30.4
                                    33.1
                                    17.0*
                                     212
   [3][**2111-2-18**] 06:00PM
                                    15.3*
                                    4.00*
                                    11.6*
                                    36.0
                                     90
                                    29.0
                                    32.2
                                    17.5*
                                     220
   [4][**2111-2-18**] 05:55PM
                                   15.8*#
                                    3.89*
                                    11.1*
                                    35.2*
                                     91
                                    28.5
                                    31.5
                                    17.5*
                                     209
   DIFFERENTIAL
                                    Neuts
                                    Bands
                                   Lymphs
                                    Monos
                                     Eos
                                    Baso
                                    Atyps
                                    Metas
   [5][**2111-2-19**] 04:57AM
                                    80.1*
   13.0*
                                     3.2
                                     3.6
                                     0.1
   [6][**2111-2-18**] 06:00PM
                                     84*
                                      0
                                     12*
                                      4
                                      0
                                      0
   [7][**2111-2-18**] 05:55PM
                                    85.8*
   8.9*
                                     3.7
                                     1.2
                                     0.4
   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [8][**2111-2-19**] 04:57AM
                                    83[1]
                                     58*
                                    2.1*
                                     140
                                     4.2
                                     102
                                     28
                                     14
   [9][**2111-2-18**] 06:00PM
                                   67*[1]
                                     60*
                                    2.0*
                                     138
                                     4.6
                                     98
                                     26
                                     19
   [10][**2111-2-18**] 05:55PM
                                    75[1]
                                     61*
                                    2.2*
                                   132*[2]
                                   8.9*[3]
                                   92*[2]
                                     27
                                     22*
   [11][image003.gif]   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
   [12][**2111-2-19**] 04:57AM
                                     30
                                     44*
   136*
   0.9
   [13][**2111-2-18**] 05:55PM
                                    40[1]
                                   106*[1]
   159*[1]
   1.1
   GENERAL URINE INFORMATION
                                    Type
                                    Color
                                   Appear
                                   Sp [**Last Name (un) **]
   [14][**2111-2-18**] 06:40PM
   Amber
                                   Cloudy
                                    1.016
   DIPSTICK URINALYSIS
                                    Blood
                                   Nitrite
                                   Protein
                                   Glucose
                                   Ketone
                                   Bilirub
                                   Urobiln
                                     pH
                                    Leuks
   [15][**2111-2-18**] 06:40PM
                                     TR
                                     NEG
                                     75
                                     NEG
                                     TR
                                     SM
                                      1
                                     5.0
                                     MOD
   MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [16][**2111-2-18**] 06:40PM
                                    [**6-4**]*
                                   21-50*
                                    MANY
                                    NONE
                                    [**6-4**]
                             [**2111-2-19**]  04:57 AM
   WBC
   10.2
   Hct
   33.0
   Plt
   212
   Other labs: PT / PTT / INR:16.4/31.6/1.5, Differential-Neuts:80.1 %,
   Lymph:13.0 %, Mono:3.2 %, Eos:3.6 %
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
   86 year old female with afib, CHF, DM2, CKD, and recurrent UTIs who
   presents with UTI and likely pyelonephritis.
   .
   # RUQ Pain: Possibly referred pain from UTI and concerning for possible
   pyelo given CT findings of perinephric stranding. Other etiology
   includes cholecystitis, choledocholelithiasis, and cholangitis though
   only w/ mildly elevated AP/AST; T bili not elevated to indicate
   cholestatic picture.  Also prelim read of CT abdomen/pelvis was not
   able to visualize gallbladder.  Will need to further evaluate w/ RUQ
   US. CT abdomen not notable for other inflammatory or infectious process
   intraabdominally.  Gyn source such as PID, ovarian torsion possibility
   though less likely in the presence of UTI.
   - Follow LFTs
   - Serial abdominal exams
   - RUQ US
   - Treat UTI
   - Treat broadly w/ meropenem (pt pcn allergic); need ID approval
   .
   # Urinary tract infection/?Pyelonephritis: UA notable for bacturia,
   pyuria, and mod leuks, and CT abdomen w/ bilateral perinephric
   stranding.  Her leukocytosis also points toward an infectious
   etiology.  Her CT scan and ARF is concerning for possible
   pyelonephritis, though patient w/o CVT on exam.
   - Cont meropenem, concerned for possible resistant organsim given
   history of UTIs.
   - Follow up blood and urine cultures
   - Follow up final read of CT abdomen/pelvis
   - Urine sediments
   .
   # Hypotension: Etiology infectious vs cardiogenic.  With elevated
   lactate, leukocytosis, and positive UA sepsis is concerning.
   Complicated by patient's sCHF w/ poor forward flow.
   - Closely monitoring hemodynamics, UO, mentation as patient is refusing
   pressors and central line placement
   - Will hold on fluids, getting fluids from iv abx
   - Start metoprolol 25mg PO QID for rate control, which should help her
   BPs given AF
   - Goal MAP > 60, if drops will give gentle ivfs (250-500cc)
   - Holding ACE-I, diuresis
   - Encourage PO intake
   - Treat w/ broad abx
   .
   # Acute on Chronic Renal failure: Creatinine remains elevated, likely
   pre-renal, with recent increase in bumex.
   - hold ACE-I
   - hold Bumex
   - cautious and gentle IVFs prn
   - Obtain urine lytes (FeUrea), sediment
   .
   # Chronic Systolic CHF: Compensated. Probably euvolemic and
   cephalization on CXR may be chronic. Patient with baseline EF 10% and
   poor foward flow.  While given concern for infectious process, possible
   superimposed cardiac decompensation as well.  However, patient has
   expressed that she does not want invasive measures will need to be
   monitored closely
   - Hold ACE-I
   - holding bumex
   - Given her stability will not diurese
   .
   # Afib on Coumadin: Stable. Currently rate-controlled.  Coumadin dose
   unclear.
   - clarify coumadin dose w/ daughter
   - start coumadin today given subtherapeutic
   .
   # Hypertension: Holding beta-blocker and ACE-I as above.
   .
   # Diabetes mellitus, type II: Hold metformin given renal failure,
   likely should not be restarted in the setting of her chronic renal
   disease.  Will hold long-acting night insulin given hypoglycemia
   earlier today.
   -HISS for now.
   .
   # Depression: Cont. citalopram
   .
   # GERD - Cont. omeprazole
   ICU Care
   Nutrition: regular diet after RUQ U/S
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-2-19**] 12:07 AM
   16 Gauge - [**2111-2-19**] 12:07 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI, no invasive measures, no central line, no
   pressors
   Disposition: ICU
References
   1. javascript:command('LHBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22);
  11. javascript:command('LCBD','expand')
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_27%22);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_28%22);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_29%22);

2111-02-19 10:01:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient presenting with abdominal pain and hypotension, CT abdomen
   consistent with pyelonephritis. Known EF~10%.  Minimized volume
   resusitation.  SBP ranged from 86 to 102, MAPS 60-70 overnight.
   Important to note--patient has significant history of chronic systolic
   heart failure with EF=10% and had recent increase in diuretic dosing.
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2111-2-19**] 01:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-2-19**] 09:16 AM
   Omeprazole (Prilosec) - [**2111-2-19**] 09:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Abdominal pain, RUQ
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: [**12-27**] Minimal
   Pain location: RUQ
   Flowsheet Data as of  [**2111-2-19**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.6
C (96
   HR: 102 (89 - 102) bpm
   BP: 104/65(74) {85/48(57) - 104/65(74)} mmHg
   RR: 14 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             250 mL
   PO:
             150 mL
   TF:
   IVF:
   100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    345 mL
   Urine:
   345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    -95 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), S3
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : just at bases)
   Abdominal: Soft, Tender: RUQ, no flank pain
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   212 K/uL
   83 mg/dL
   2.1 mg/dL
   28 mEq/L
   4.2 mEq/L
   58 mg/dL
   102 mEq/L
   140 mEq/L
   33.0 %
   10.2 K/uL
        [image002.jpg]
                             [**2111-2-19**]  04:57 AM
   WBC
   10.2
   Hct
   33.0
   Plt
   212
   Cr
   2.1
   Glucose
   83
   Other labs: PT / PTT / INR:16.4/31.6/1.5, ALT / AST:30/44, Alk Phos / T
   Bili:136/0.9, Differential-Neuts:80.1 %, Lymph:13.0 %, Mono:3.2 %,
   Eos:3.6 %, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Microbiology: UCx NGTD
   Blood Cx: NGTD
   Assessment and Plan
 PYELONEPHRITIS: CT abdomen and findings on UA are consistent albeit
   location of tenderness on exam is more RUQ.  Since unable to visualize
   GB on CT will also evaluate with RUQ US.  Agree with broad spectrum
   antibiotics.  Follow up on culture data.
 HYPOTENSION:  Secondary to sepsis vs. cardiogenic component with
   known poor LVEF (~10%).  Also had recently been increased on her bumex
   as an outpatient, may be relatively intravascularly depleted.
   Responded to gently volume resusitation.  Maintain even I/Os.
 ACUTE ON CHRONIC RENAL FAILURE:  Secondary to hypotension, poor
   forward flow given poor EF and recent doubling of bumex dose. Cr
   trending down. Good urine output. Check urine electrolytes and
   sediment.
 ATRIAL FIBRILLATION:  Will restart her beta blocker first, would not
   tolerate rapid rate so hesitant holding off on restarting meds for rate
   control.  Continue to monitor in ICU.  Subtherapeutic on coumadin, will
   clarify dose and restart today.
 DIABETES:  Held outpatient meds, on RISS.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2111-2-19**] 12:07 AM
   16 Gauge - [**2111-2-19**] 12:07 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Coumadin, subtherapeutic)
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2111-02-20 06:48:00 Physician Resident Progress Note
Chief Complaint: RUQ pain, UTI
   24 Hour Events:
 ULTRASOUND - At [**2111-2-19**] 11:35 AM
   - RUQ US: dictation says no cholelithiasis or cholecystitis to explain
   pt's RUQ pain.
   - Urine lytes: FE Urea = 27.46 suggesting prerenal however 27.46 is not
   much less than 35.
   - Diet advanced given normal RUQ US.
   - Meropenem approved.
   - Started on metoprolol for rate control.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2111-2-19**] 11:34 PM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2111-2-19**] 09:17 AM
   Morphine Sulfate - [**2111-2-19**] 11:35 AM
   Heparin Sodium (Prophylaxis) - [**2111-2-19**] 11:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-20**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 101 (91 - 107) bpm
   BP: 122/79(89) {80/50(58) - 122/79(89)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,000 mL
                                                                    100 mL
   PO:
                                                                    700 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                    762 mL
                                                                    380 mL
   Urine:
                                                                    762 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    238 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GEN: Pleasant, comfortable appearing elderly woman in NAD
   CV: Irregularly irregular, JVD mildly elevated
   Pulm: bibasilar crackles, otherwise CTAB
   Abd: RUQ tenderness, no guarding or rebound tenderness, soft, BS
   present
   Ext: trace pitting edema up mid shin
   Labs / Radiology
   230 K/uL
   10.9 g/dL
   82 mg/dL
   2.2 mg/dL
   27 mEq/L
   4.1 mEq/L
   64 mg/dL
   101 mEq/L
   139 mEq/L
   33.5 %
   7.3 K/uL
        [image002.jpg]
                             [**2111-2-19**]  04:57 AM
                             [**2111-2-20**]  05:16 AM
   WBC
   10.2
   7.3
   Hct
   33.0
   33.5
   Plt
   212
   230
   Cr
   2.1
   2.2
   Glucose
   83
   82
   Other labs:
    INR 1.3 from 1.5
   Differential-Neuts:71.1 %, Lymph:19.5 %, Mono:4.4 %, Eos:4.7 %
   Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   [1][image003.gif]   RENAL & GLUCOSE
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
   [2][**2111-2-20**] 05:16AM
                                     64*
                                    2.2*
                                     139
                                     4.1
                                     101
                                     27
   [3][**2111-2-19**] 04:57AM
                                     58*
                                    2.1*
                                     140
                                     4.2
                                     102
                                     28
   [4][image003.gif]   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   AlkPhos
                                   TotBili
   [5][**2111-2-20**] 05:16AM
                                     30
                                     57*
                                    167*
                                     1.0
   [6][**2111-2-19**] 04:57AM
                                     30
                                     44*
                                    136*
                                     0.9
   Other Urine Chemistry:
   UreaN:182
   Creat:24
   Na:84
   K:41
   Cl:92
   Color
   Yellow
   Appear
   Clear
   SpecGr
   1.009
   pH
   5.5
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Mod
   Bld
   Neg
   Nitr
   Neg
   Prot
   Tr
   Glu
   Neg
   Ket
   Neg
   RBC
   1
   WBC
   38
   Bact
   None
   Yeast
   None
   Epi
   1
   Other Urine Counts
   TransE: 1
   CastHy: 46
   Mucous: Rare
   Eos: Positive Rare Eos
   Urine culture still pending
   CXR:
   Looks improved
   Assessment and Plan
   86 year old female with afib, CHF, DM2, CKD, and recurrent UTIs who
   presents with UTI and likely pyelonephritis.
   # RUQ Pain: Possibly referred pain from UTI and concerning for possible
   pyelo given CT findings of perinephric stranding. Other etiology
   includes cholecystitis, choledocholelithiasis, and cholangitis though
   only w/ mildly elevated AP/AST; T bili not elevated to indicate
   cholestatic picture.  Also prelim read of CT abdomen/pelvis was not
   able to visualize gallbladder.  Will need to further evaluate w/ RUQ
   US. CT abdomen not notable for other inflammatory or infectious process
   intraabdominally.  Gyn source such as PID, ovarian torsion possibility
   though less likely in the presence of UTI.
   - Follow LFTs
   - Serial abdominal exams
   - RUQ US
   - Treat UTI
   - Treat broadly w/ meropenem (pt pcn allergic); need ID approval
   # Pyelonephritis:
   - Cont meropenem, concerned for possible resistant organsim given
   history of UTIs.
   - Follow up blood and urine cultures
   - Follow up final read of CT abdomen/pelvis
   - Urine sediments
   # Hypotension:
   Etiology infectious vs cardiogenic.  With elevated lactate,
   leukocytosis, and positive UA sepsis is concerning.  Complicated by
   patient's sCHF w/ poor forward flow.
   - Maintain even I/Os.
   - Will hold on fluids, getting fluids from iv abx
   - Start metoprolol 25mg PO QID for rate control, which should help her
   BPs given AF
   - Goal MAP > 60, if drops will give gentle ivfs (250-500cc)
   - Holding ACE-I, diuresis
   # Acute on Chronic Renal failure - holding ACE-I
   - holding Bumex
   - cautious and gentle IVFs prn
   - Obtain urine lytes (FeUrea), sediment
   # Chronic Systolic CHF: Compensated. Probably euvolemic and
   cephalization on CXR may be chronic. Patient with baseline EF 10% and
   poor foward flow.  While given concern for infectious process, possible
   superimposed cardiac decompensation as well.  However, patient has
   expressed that she does not want invasive measures will need to be
   monitored closely
   - Hold ACE-I
   - holding bumex
   - Given her stability will not diurese
   # Afib on Coumadin: Stable. Currently rate-controlled.  Coumadin dose
   unclear.
   - clarify coumadin dose w/ daughter
   - start coumadin today given subtherapeutic
   - continue metoprolol
   # Diabetes mellitus, type II: Hold metformin given renal failure,
   likely should not be restarted in the setting of her chronic renal
   disease.  Will hold long-acting night insulin given hypoglycemia
   earlier today.
   -HISS for now
   # Depression: Cont. citalopram
   # GERD - Cont. omeprazole
   ICU Care
   Nutrition: regular diet after RUQ U/S
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-2-19**] 12:07 AM
   16 Gauge - [**2111-2-19**] 12:07 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI, no invasive measures, no central line, no
   pressors
   Disposition: ICU
References
   1. javascript:command('LCBA','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22);
   4. javascript:command('LCBD','expand')
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22);

2111-02-20 11:42:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient presenting with abdominal pain and hypotension, CT abdomen
   consistent with pyelonephritis. Known EF~10%.  Minimized volume
   resusitation.  SBP ranged from 86 to 102, MAPS 60-70 overnight.
   24 Hour Events:
 ULTRASOUND - At [**2111-2-19**] 11:35 AM: unremarkable
   No complaints
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2111-2-19**] 11:34 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2111-2-19**] 11:35 AM
   Heparin Sodium (Prophylaxis) - [**2111-2-19**] 11:34 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-20**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 112 (91 - 112) bpm
   BP: 107/73(81) {80/50(25) - 122/79(89)} mmHg
   RR: 25 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 61.2 kg (admission): 61.8 kg
                  Total In:
                                                                  1,000 mL
                                                                    400 mL
   PO:
                                                                    700 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                    762 mL
                                                                    610 mL
   Urine:
                                                                    762 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    238 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally [**12-28**] way up
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   230 K/uL
   82 mg/dL
   2.2 mg/dL
   27 mEq/L
   4.1 mEq/L
   64 mg/dL
   101 mEq/L
   139 mEq/L
   33.5 %
   7.3 K/uL
        [image002.jpg]
                             [**2111-2-19**]  04:57 AM
                             [**2111-2-20**]  05:16 AM
   WBC
   10.2
   7.3
   Hct
   33.0
   33.5
   Plt
   212
   230
   Cr
   2.1
   2.2
   Glucose
   83
   82
   Other labs: PT / PTT / INR:15.0/30.5/1.3, ALT / AST:30/57, Alk Phos / T
   Bili:167/1.0, Differential-Neuts:71.1 %, Lymph:19.5 %, Mono:4.4 %,
   Eos:4.7 %, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 PYELONEPHRITIS:  Continue meropenim.  Awaiting culture data.  Few eos
   on diff, no rash, hs PCN allergy and there may be cross-reactivity.
   Hopefully senitivities will be back today and we can tailor
   antibiotics.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   acute on chronic.  Prerenal component, also eos present.  Possible
   AIN.  Will review meds.  Plan for diuresis. Follow labs.
 ATRIAL FIBRILLATION (AFIB):  Rate controlled on current medical
   regimen.  Still subtherapeutic on coumadin, start heparin and follow
   coags.  Continue coumadin.
 HYPOTENSION (NOT SHOCK):  Secondary to dehydration/volume depletion,
   now poor forward flow given she is in heart failure.
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS):  Resolved.
 DIABETES MELLITUS (DM), TYPE II:  RISS.  Advance diet as tolerated.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2111-2-19**] 12:07 AM
   16 Gauge - [**2111-2-19**] 12:07 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2111-02-21 07:19:00 Physician Resident Progress Note
Chief Complaint: 86 year old female with afib, CHF, DM2, CKD, and
   recurrent UTIs who presents with UTI and likely pyelonephritis.
   24 Hour Events:
   - diuresed - didn't have great output to 80 IV lasix. gave 160 in PM
   - started heparin gtt for subtherapeutic INR
   - called out
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2111-2-21**] 05:42 AM
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2111-2-20**] 12:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-21**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 95 (90 - 112) bpm
   BP: 111/76(85) {86/42(53) - 148/95(104)} mmHg
   RR: 12 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 62 kg (admission): 61.8 kg
             Total In:
                                                                  1,169 mL
                                                                    285 mL
   PO:
                                                                    880 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    289 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  1,585 mL
                                                                    700 mL
   Urine:
                                                                  1,585 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -416 mL
                                                                   -415 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   223 K/uL
   11.2 g/dL
   119 mg/dL
   2.1 mg/dL
   28 mEq/L
   3.6 mEq/L
   56 mg/dL
   100 mEq/L
   138 mEq/L
   33.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2111-2-19**]  04:57 AM
                             [**2111-2-20**]  05:16 AM
                             [**2111-2-20**]  03:59 PM
                             [**2111-2-21**]  05:32 AM
   WBC
   10.2
   7.3
   6.7
   Hct
   33.0
   33.5
   33.9
   Plt
   [**Telephone/Fax (3) 11256**]
   Cr
   2.1
   2.2
   2.3
   2.1
   Glucose
   83
   82
   180
   119
   Other labs: PT / PTT / INR:15.4/66.7/1.4, ALT / AST:30/45, Alk Phos / T
   Bili:165/0.9, Differential-Neuts:71.1 %, Lymph:19.5 %, Mono:4.4 %,
   Eos:4.7 %, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs:   UA ([**2-19**])
   RBCs6-10
   WBCs 21-50
   Bacteria  MANY
   Imaging: CXR [**2-20**]:
   FINDINGS: In comparison with study of [**2-18**], there are persistent low
   lung
   volumes. There is again substantial enlargement of the cardiac
   silhouette
   with relatively mild vascular congestion. This discordancy raises the
   possibility of cardiomyopathy or pericardial effusion.
   Mild atelectatic changes are seen at the bases.
   Microbiology: UCxs final: negative
   Bcxs [**2-18**]: pending
   Assessment and Plan
   Assessment and Plan
   86 year old female with afib, CHF, DM2, CKD, and recurrent UTIs who
   presents with UTI and likely pyelonephritis.
   .
   # Pyelonephritis:
   - Cont meropenem, pending culture data (day 1 [**2-19**]) - blood cxs are
   still pending
   .
   # RUQ Pain:
   RUQ US without good explanation for pain. Possibly [**1-27**] pyelo.
   - Treat UTI
   .
   # Hypotension:
   Patient now at baseline. Still holding ACE until finished diuresis
   .
   # Acute on Chronic Renal failure
   Creatinine improved with diuresis yesterday although not great response
   (was -500 mL over past 24 hrs in response to 80 mg IV lasix challenge
   then 160 in evening, LOS fluid balance is -198); likely secondary to
   improved forward flow.  (currently 2.1, baseline is 1.5)
   - diurese with lasix IV, goal 500-1L negative
   - holding ACE-I until Creatinine resolves
   - Restart 4 mg Bumex [**Hospital1 **] (as per home regimen)
   .
   # Chronic Systolic CHF: Compensated EF 10%
   - transition to PO bumetanide as above
   - on metoprolol
   - Holding ACE-I until ARF resolves
   .
   # Afib on Coumadin:
   Stable. Currently rate-controlled.  Inr 1.4 today. Continue IV heparin
   given afib hx.
   - coumadin dose 3.5
   - metoprolol
   -continue IV heparin
   .
   # Diabetes mellitus, type II: Hold metformin given renal failure,
   likely should not be restarted in the setting of her chronic renal
   disease.  Will hold long-acting night insulin given hypoglycemia
   earlier today.
   -HISS for now
   .
   # Depression: Cont. citalopram
   .
   # GERD - Cont. omeprazole
   .
   ICU Care
   Nutrition: 2 g sodium diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-2-19**] 12:07 AM
   16 Gauge - [**2111-2-19**] 12:07 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI, no invasive measures, no central line, no
   pressors
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-2-19**] 12:07 AM
   20 Gauge - [**2111-2-20**] 05:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: